US08404722B2
Preparation of 2-chloro-N-(4-(4-phenyl-5-(trifluoromethyl)oxazol-2-yl)phenyl)benzamide (1):
to a solution of 4-(4-phenyl-5-(trifluoromethyl)oxazol-2-yl)benzenamine (178 mg, 585 μmol) and pyridine (473 μl, 5850 μmol) in 5 mL dichloromethane at room temperature was added 2-chlorobenzoyl chloride (78.0 μl, 614 μmol) all at once by pipet. After one hour the reaction was concentrated under reduced pressure then taken up in 25 mL dichloromethane and washed with 25 mL saturated aqueous sodium bicarbonate solution. The organic separation was stirred over magnesium sulfate, filtered and the filtrate concentrated under reduced pressure to afford a yellow oil. The product was isolated by chromatography on silica gel, eluting with 15-40% ethyl acetate in hexane, to yield a colorless foamy solid (213 mg, 82%). ESI+ m/z=443.0 [MH]+.

reactant | 4-(4-phenyl-5-(trifluoromethyl)oxazol-2-yl)benzenamine | 585 μmol, 178 mg | C1(=CC=CC=C1)C=1N=C(OC1C(F)(F)F)C1=CC=C(C=C1)N | C16H11F3N2O
reactant | pyridine | 5850 μmol, 473 μl | N1=CC=CC=C1 | C5H5N
reactant | 2-chlorobenzoyl chloride | 614 μmol, 78.0 μl | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-chloro-N-(4-(4-phenyl-5-(trifluoromethyl)oxazol-2-yl)phenyl)benzamide | 213 mg, 82% | ClC1=C(C(=O)NC2=CC=C(C=C2)C=2OC(=C(N2)C2=CC=CC=C2)C(F)(F)F)C=CC=C1 | C23H14ClF3N2O2
